US05286869
(E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(3-trifluoromethylphenyl)pyridine-3,5-dicarboxylate:
297 mg (1 mM) of 3-{4-(1-imidazolylmethyl)phenyl}-2-propen-1-yl 3-aminocrotonate and 272 mg (1mM) of methyl 2-(3-trifluoromethylbenzylidene)acetoacetate were dissolved in 5 ml of toluene and refluxed for six hours. After cooling, the crystals produced were filtered off and recrystallized from methanol, whereby the captioned compound was obtained. The yield was 394 mg (71.5%).

reactant | 3-{4-(1-imidazolylmethyl)phenyl}-2-propen-1-yl 3-aminocrotonate | 1 mM, 297 mg | N\C(=C/C(=O)OCC=CC1=CC=C(C=C1)CC=1NC=CN1)\C | C17H19N3O2
reactant | methyl 2-(3-trifluoromethylbenzylidene)acetoacetate | 1mM, 272 mg | FC(C=1C=C(C=C(C(=O)OC)C(=O)C)C=CC1)(F)F | C13H11F3O3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(3-trifluoromethylphenyl)pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC\C=C\C1=CC=C(C=C1)CC=1NC=CN1)C1=CC(=CC=C1)C(F)(F)F)C(=O)OC)C | C30H28F3N3O4
